US08937083B2
To tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)carbamate (2 g, 6.79 mmol) in dichloromethane (6.79 ml) was added trifluoroacetic acid (6.79 ml) and the mixture was left stiffing at room temperature for 2 hours. Toluene (12 mL) was added and the reaction was concentrated to near dryness. The mixture was poured into a separatory funnel containing saturated aqueous sodium bicarbonated and was extracted with dichloromethane. The combined organic layers were concentrated to give 3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine (0.954 g, 4.90 mmol, 72.2%) as a white solid: mp 137.9-139.9° C.; 1H NMR (400 MHz, CDCl3) δ 8.84 (d, J=2.4 Hz, 1H), 8.50 (dd, J=4.7, 1.4 Hz, 1H), 7.95 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.52 (s, 1H), 7.37 (ddd, J=8.4, 4.7, 0.7 Hz, 1H), 3.18 (s, 2H); ESIMS m/z 196 ([M+H]+).

reactant | tert-butyl (3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)carbamate | 6.79 mmol, 2 g | ClC1=NN(C=C1NC(OC(C)(C)C)=O)C=1C=NC=CC1 | C13H15ClN4O2
reactant | trifluoroacetic acid | 6.79 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 6.79 ml | ClCCl | CH2Cl2
product | 3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 4.90 mmol, 0.954 g, 72.2% | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
